US05686481
5-Benzyloxy-1-(2-carboxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyphenyl)indole-2-carboxylic acid
5-Benzyloxy-1-(2-carboxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyohenyl)indole-2-carboxylic acid. The title compound was prepared by alkylation of ethyl 5-benzyloxy-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate with 2-carboethoxymethoxy-4-methoxybenzyl chloride followed by saponification using methods previously described in examples 1c and 1d; m.p. 182°-190° C.

reactant | ethyl 5-benzyloxy-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C1=CC2=C(C=C1)OCO2 | C25H21NO5
reactant | 2-carboethoxymethoxy-4-methoxybenzyl chloride | C(=O)(OCC)COC1=C(CCl)C=CC(=C1)OC | C12H15ClO4
product | 5-Benzyloxy-1-(2-carboxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyphenyl)indole-2-carboxylic acid | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=C(C=C(C=C1)OC)OCC(=O)O)C(=O)O)C1=CC2=C(C=C1)OCO2 | C33H27NO9
